US04758586
1-Benzyl-3-(5-Hydroxy-1,3-Decadien-1-yl)-Indole
To a solution of 5-(1-benzylindol-3-yl)-2,4-pentadienal (2 g, 7 mmol) in 25 ml of tetrahydrofuran, stirred in a dry ice-acetone bath, was added in one portion 7 mmol of n-pentyl magnesium bromide (3.9 ml of 1.8M solution in ether). The resulting mixture was stirred at -78° C. for 90 min. and then mixed with 50 ml of water after warming up to about 0° C. Ethyl acetate, 50 ml, was added and the layers were separated. The organic layer was washed with water, dried (MgSO4) and concentrated on rotary evaporator to give the crude mixture. This substance was purified on a silica gel dry column (25% ethyl acetate in hexane) to afford 0.4 g of the produce as an oil. NMR spectrum shows a singlet at 5.12 and a multiplet centered at 4.05 ppm.

reactant | 5-(1-benzylindol-3-yl)-2,4-pentadienal | 7 mmol, 2 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=CC=CC=O | C20H17NO
reactant | n-pentyl magnesium bromide | 7 mmol, 1.8M, 3.9 ml | C(CCCC)[Mg]Br
reactant | water | 50 ml | O | H2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-(5-Hydroxy-1,3-Decadien-1-yl)-Indole | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=CC=CC(CCCCC)O | C25H29NO
